US04179502
By the same procedure as described in Example 1, 0.378 g of benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-dimethylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate was treated with 0.048 g of sodium nitrite to obtain 0.350 g powdery benzhydryl 7-(4-bromo-3-oxo-2-hydroxyiminobutyrylamino)-3-(5-dimethylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate (syn-isomer).

reactant | benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-dimethylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.378 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)N(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C28H26BrN5O5S2
reactant | sodium nitrite | 0.048 g | N(=O)[O-].[Na+]
product | benzhydryl 7-(4-bromo-3-oxo-2-hydroxyiminobutyrylamino)-3-(5-dimethylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.350 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)N(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO)=O | C28H25BrN6O6S2
